**.subckt filter_clkgen clk rstb phi2 phi2b phi1 phi1b cclk cclkb Vpb Vnb div2clk
*.ipin clk
*.ipin rstb
*.opin phi2
*.opin phi2b
*.opin phi1
*.opin phi1b
*.opin cclk
*.opin cclkb
*.ipin Vpb
*.ipin Vnb
*.ipin div2clk
X4 phi2dd phi2 phi2b comp_clks Wpmos=1.26 Lpmos=0.18 Wnmos=0.42 Lnmos=0.18
X7 phi1dd phi1 phi1b comp_clks Wpmos=1.26 Lpmos=0.18 Wnmos=0.42 Lnmos=0.18
X10 div2dd cclk cclkb comp_clks Wpmos=1.26 Lpmos=0.18 Wnmos=0.42 Lnmos=0.18
X1 gclk clki clkt comp_clks_1stage Wpmos=1.26 Lpmos=0.18 Wnmos=0.42 Lnmos=0.18
X2 clki phi2d Vnb inv_weak_pulldown Wpmos=1.26 Lpmos= Wnmos= Lnmos=0.54
X5 clkt phi1d Vnb inv_weak_pulldown Wpmos=1.26 Lpmos= Wnmos= Lnmos=0.54
X8 net1 div2d Vnb inv_weak_pulldown Wpmos=1.26 Lpmos= Wnmos= Lnmos=0.54
X9 div2d div2dd Vnb inv_weak_pulldown Wpmos=1.26 Lpmos= Wnmos= Lnmos=0.54
X3 phi2d phi2dd Vpb inv_weak_pullup Wpmos=1.26 Lpmos=0.54 Wnmos= Lnmos=
X6 phi1d phi1dd Vpb inv_weak_pullup Wpmos=1.26 Lpmos=0.54 Wnmos= Lnmos=
x1 clk div2clk GND GND VDD VDD net1 sky130_fd_sc_lp__and2_1
x12 clk rstb gnd gnd vdd vdd gclk sky130_fd_sc_lp__dlclkp_1
**.ends

* expanding   symbol:  clkgen/comp_clks.sym # of pins=3
* sym_path: /home/sky/fossi_cochlea/xschem/clkgen/comp_clks.sym
* sch_path: /home/sky/fossi_cochlea/xschem/clkgen/comp_clks.sch
.subckt comp_clks  clk clka clkb   Wpmos=1.26 Lpmos=0.18 Wnmos=0.42 Lnmos=0.18
*.ipin clk
*.opin clka
*.opin clkb
X3 clk clkt GND VDD transmission_gate Wpmos=Wpmos Lpmos=Lpmos Wnmos=Wnmos Lnmos=Lnmos
X1 clk clki inv Wpmos=Wpmos Lpmos=Lpmos Wnmos=Wnmos Lnmos=Lnmos
X2 clki clka inv Wpmos=Wpmos Lpmos=Lpmos Wnmos=Wnmos Lnmos=Lnmos
XM7 clkb clkt GND GND sky130_fd_pr__nfet_01v8 L=Lnmos W=Wnmos nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1 
XM8 clkb clkt VDD VDD sky130_fd_pr__pfet_01v8 L=Lpmos W=Wpmos nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1 
.ends


* expanding   symbol:  clkgen/comp_clks_1stage.sym # of pins=3
* sym_path: /home/sky/fossi_cochlea/xschem/clkgen/comp_clks_1stage.sym
* sch_path: /home/sky/fossi_cochlea/xschem/clkgen/comp_clks_1stage.sch
.subckt comp_clks_1stage  clk clka clkb   Wpmos=1.26 Lpmos=0.18 Wnmos=0.42 Lnmos=0.18
*.ipin clk
*.opin clka
*.opin clkb
X3 clk clkb GND VDD transmission_gate Wpmos=Wpmos Lpmos=Lpmos Wnmos=Wnmos Lnmos=Lnmos
X1 clk clka inv Wpmos=Wpmos Lpmos=Lpmos Wnmos=Wnmos Lnmos=Lnmos
.ends


* expanding   symbol:  inv/inv_weak_pulldown.sym # of pins=3
* sym_path: /home/sky/fossi_cochlea/xschem/inv/inv_weak_pulldown.sym
* sch_path: /home/sky/fossi_cochlea/xschem/inv/inv_weak_pulldown.sch
.subckt inv_weak_pulldown  in out Vnb   Wpmos=1.26 Lmin=0.18 Wmin=0.42 Lnmos=0.54
*.ipin in
*.iopin out
*.ipin Vnb
XM1 net1 in GND GND sky130_fd_pr__nfet_01v8 L=Lmin W=Wmin nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1 
XM2 out in VDD VDD sky130_fd_pr__pfet_01v8 L=Lmin W=Wpmos nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1 
XM3 out Vnb net1 GND sky130_fd_pr__nfet_01v8 L=Lnmos W=Wmin nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1 
.ends


* expanding   symbol:  inv/inv_weak_pullup.sym # of pins=3
* sym_path: /home/sky/fossi_cochlea/xschem/inv/inv_weak_pullup.sym
* sch_path: /home/sky/fossi_cochlea/xschem/inv/inv_weak_pullup.sch
.subckt inv_weak_pullup  in out Vpb   Wpmos=1.26 Lpmos=0.54 Wmin=0.42 Lmin=0.18
*.ipin in
*.iopin out
*.ipin Vpb
XM1 out in GND GND sky130_fd_pr__nfet_01v8 L=Lmin W=Wmin nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1 
XM2 net1 in VDD VDD sky130_fd_pr__pfet_01v8 L=Lmin W=Wpmos nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1 
XM3 out Vpb net1 VDD sky130_fd_pr__pfet_01v8 L=Lpmos W=Wpmos nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1 
.ends


* expanding   symbol:  transmission_gate/transmission_gate.sym # of pins=4
* sym_path: /home/sky/fossi_cochlea/xschem/transmission_gate/transmission_gate.sym
* sch_path: /home/sky/fossi_cochlea/xschem/transmission_gate/transmission_gate.sch
.subckt transmission_gate  in out ctrl_ ctrl   Wpmos=0.42 Lpmos=0.18 Wnmos=0.42 Lnmos=0.18
*.iopin in
*.iopin out
*.ipin ctrl_
*.ipin ctrl
XM1 out ctrl in GND sky130_fd_pr__nfet_01v8 L=Lnmos W=Wnmos nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1 
XM2 out ctrl_ in VDD sky130_fd_pr__pfet_01v8 L=Lpmos W=Wpmos nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1 
.ends


* expanding   symbol:  inv/inv.sym # of pins=2
* sym_path: /home/sky/fossi_cochlea/xschem/inv/inv.sym
* sch_path: /home/sky/fossi_cochlea/xschem/inv/inv.sch
.subckt inv  in out   Wpmos=3 Lpmos=0.18 Wnmos=1 Lnmos=0.18
*.ipin in
*.iopin out
XM1 GND in out GND sky130_fd_pr__nfet_01v8 L=Lnmos W=Wnmos nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1 
XM2 VDD in out VDD sky130_fd_pr__pfet_01v8 L=Lpmos W=Wpmos nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1 
.ends

.GLOBAL VDD
.GLOBAL GND
** flattened .save nodes
.end
